data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2120,2353,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20](=[O:21])[O:22][CH3:23])[N+:24]([CH3:25])=[C:26]([CH3:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:26]([CH3:27])([C:28](=[O:29])[O:30][CH3:31])[N:24]([CH3:25])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][CH3:23],water,298.15,32.112061509093536,-17.407156741840687
453,495,[CH3:1][O:2][C:3]#[C:4][Br:5].[CH3:6][C:7]#[N+:8][C-:9]([C:10](=[O:11])[NH:12][CH3:13])[C:14](=[O:15])[NH:16][CH3:17]>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[C:9]([C:10](=[O:11])[NH:12][CH3:13])([C:14](=[O:15])[NH:16][CH3:17])[N:8]=[C:7]1[CH3:6],water,298.15,20.274546641341225,-66.34600047144218
4005,4581,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]([CH3:10])=[N+:11]([CH3:12])[C-:13]([C:14]([CH3:15])=[O:16])[C:17](=[O:18])[O:19][CH3:20]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:13]([C:14]([CH3:15])=[O:16])([C:17](=[O:18])[O:19][CH3:20])[N:11]([CH3:12])[C:9]1([C:7]([NH:6][CH3:5])=[O:8])[CH3:10],water,298.15,47.200298530034246,-14.17409874188928
4255,4869,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N-:12][NH+:13]=[C:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[NH:21][CH3:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([C:15](=[O:16])[NH:17][CH3:18])([C:19](=[O:20])[NH:21][CH3:22])[NH:13][N:12]2[CH3:11],water,298.15,30.72669595921633,6.276678165563205
2426,2694,[CH3:25][NH:26][C:27](=[O:28])[N-:29][NH+:30]=[C:31]([CH3:32])[C:33]([CH3:34])=[O:35].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[N:29]([C:27]([NH:26][CH3:25])=[O:28])[NH:30][C:31]2([CH3:32])[C:33]([CH3:34])=[O:35],water,298.15,35.84320835656013,-20.60294476882452
713,774,[CH3:16][O:17][C:18](=[O:19])[CH:20]=[NH+:21][NH-:22].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6]([CH3:7])=[O:8])=[C:9]([C:10]([CH3:11])=[O:12])[C:13]([CH3:14])=[O:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[NH:22][NH:21][CH:20]1[C:18]([O:17][CH3:16])=[O:19],water,298.15,14.660328707618069,-13.069436287466807
1460,1608,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][C-:19]([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]#[N:17])[NH:18][C:19]2([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,20.63461502382028,-13.558834752370892
875,948,[CH3:1][O:2][C:3]#[C:4][F:5].[CH3:6][NH:7][C:8](=[O:9])[C-:10]([C:11]#[N:12])[N+:13]([CH3:14])=[C:15]([C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH3:1][O:2][C:3]1=[C:4]([F:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([C:11]#[N:12])[N:13]([CH3:14])[C:15]1([C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,26.702406742823115,-67.2410751216795
3722,4250,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][C-:17]([CH3:18])[CH3:19]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([CH3:15])[NH:16][C:17]2([CH3:18])[CH3:19],water,298.15,34.669341687882394,-2.2150686192423565
2006,2228,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:18]=[C:17]3[C:15]([NH:14][CH3:13])=[O:16],water,298.15,15.21595678733448,-54.85921498385114
4290,4907,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N-:12][O+:13]=[C:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[N:12]([CH3:11])[O:13][C:14]2([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22],water,298.15,12.611872662078964,-50.194971672252464
